US07807709B2
a. 2-Methoxy-1-(3-methoxy-propoxy)4-methyl-benzene
A stirred solution of 2-methoxy-4-methylphenol (5.00 g, 36.2 mmol), 1-bromo-3-methoxypropane (7.06 g, 45.2 mmol) and anhydrous K2CO3 (7.50 g, 64.3 mmol) is refluxed overnight. After cooling, volatiles are removed under reduced pressure, the residue is taken up in water and extracted with AcOEt. The combined organics are washed with brine, dried (Na2SO4) and concentrated. After silica gel chromatography (hexane/AcOEt 3:1) the title compound is obtained as colorless liquid. TLC, Rf (hexane/AcOEt 2:1)=0.34. MS: 211.0 [M+H]+. 1H-NMR (CDCl3): δ 2.13 (m, 2H), 2.33 (s, 3H), 3.38 (s, 3H), 3.61 (m, 2H), 3.88 (s, 3H), 4.12 (m, 2H), 6.7-6.85 (m, 3H) ppm.

reactant | 2-methoxy-4-methylphenol | 36.2 mmol, 5.00 g | COC1=C(C=CC(=C1)C)O | C8H10O2
reactant | 1-bromo-3-methoxypropane | 45.2 mmol, 7.06 g | BrCCCOC | C4H9BrO
reactant | K2CO3 | 64.3 mmol, 7.50 g | C(=O)([O-])[O-].[K+].[K+]
product | 2-Methoxy-1-(3-methoxy-propoxy)4-methyl-benzene | COC1=C(C=CC(=C1)C)OCCCOC | C12H18O3
